US09303007B2
Dichlorobis(triphenylphosphine)-palladium(II) (17.30 mg, 0.025 mmol) was added to a solution of 6-bromo-2-chloroquinoxaline (60 mg, 0.246 mmol) and tributyl(1-ethoxyvinyl)stannane (107 mg, 0.296 mmol) in dioxane (1.5 mL) and the mixture was stirred at 110° C. for 2 h. The reaction was diluted with MeOH, and purified by prep HPLC (H2O-MeOH with 10 mM NH4OAc buffer) to yield 6-bromo-2-(1-ethoxyvinyl)quinoxaline (36 mg, 0.129 mmol, 52.3% yield) as white solid. LC-MS retention time 2.76 min; m/z 279 [M+H]+. (Column PHENOMENEX® Luna 3.0×50 mm S10. Solvent A=90% water: 10% methanol: 0.1% TFA. Solvent B=10% water: 90% methanol: 0.1% TFA. Flow Rate=4 mL/min. Start % B=0. Final % B=100. Gradient Time=3 min. Wavelength=220).

reactant | 6-bromo-2-chloroquinoxaline | 0.246 mmol, 60 mg | BrC=1C=C2N=CC(=NC2=CC1)Cl | C8H4BrClN2
reactant | tributyl(1-ethoxyvinyl)stannane | 0.296 mmol, 107 mg | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | CO | CH4O
catalyst | Dichlorobis(triphenylphosphine)-palladium(II) | 0.025 mmol, 17.30 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-bromo-2-(1-ethoxyvinyl)quinoxaline | 0.129 mmol, 36 mg, 52.3% yield | BrC=1C=C2N=CC(=NC2=CC1)C(=C)OCC | C12H11BrN2O
